US04867913
12α-Hydroxypregna-1,4-dien-3-one-20-carbaldehyde (34.2 g) was dissolved in 300 ml of methylene chloride. To the solution were added 23.6g of acetyl chloride and 27.7 g of pyridine, and the mixture was stirred atroom temperature for 5 hours. To the reaction mixture was added 300 ml of methylene chloride, the resulting solution was washed in sequence with diluted hydrochloric acid and water, and dried over anhydrous magnesium sulfate. Low-boiling fractions were distilled off from the solution under reduced pressure. There was thus obtained crude 12α-acetoxypregna-1,4-dien-3-one-20-carbaldehyde as a viscous substance. This crude product was dissolved in 300 ml of benzene, 21.3 g of piperidine was added to the solution, and the resulting mixture was refluxed for 3 hours while removing the byproduct water azeotropically with benzene. Low-boiling fractions were distilled off from the thus-obtained reaction mixture. There remained crude 12α-acetoxy-22-(N-piperidyl)bisnor-1,4,20(22)-cholatrien-3-one as a viscous substance, which was dissolved in 180 ml of pyridine. To the solution was added gradually at room temperature a mixture of 20.0 g of chromium trioxide and 250 ml of pyridine. After stirring the resulting mixture for one hour, 1 liter of benzene was added to the reaction mixture. The solid matter was filtered off, and diluted hydrochloric acid was added to the filtrate. After effecting benzene extraction to a sufficient extent, the benzene layer was washed in sequence with diluted hydrochloric acid and water. Low-boiling fractions were distilled off under reduced pressure, and the residue was purified by preparation liquidchromatography [column: Waters Associates' Prep LC/System 500, Prep PAK™500/SILICA; solvent system: isopropyl alcohol:n-hexane=20:80, v/v] to give 9.1 g of 12α-acetoxypregna-1,4-diene-3,20-dione as crystals.It has the following physical properties.

reactant | 12α-Hydroxypregna-1,4-dien-3-one-20-carbaldehyde | 34.2 g | O[C@H]1C[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)C=O)[C@@]12C)=O)C | C22H30O3
reactant | acetyl chloride | 23.6g | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 27.7 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 12α-acetoxypregna-1,4-dien-3-one-20-carbaldehyde | C(C)(=O)O[C@H]1C[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)C=O)[C@@]12C)=O)C | C24H32O4
